US07501411B2
Step 3: Benzo[b]thiophene-7-carboxylic acid ethyl ester
7-bromobenzo[b]thiophene (500 mg, 2.36 mmol) is dissolved in dry THF (5.0 mL) under nitrogen. Magnesium turnings (530 mg, 2.83 mmol, 1.20 equiv.) are added and the resulting mixture is heated at reflux until dissolution of the magnesium has occurred. The resulting cloudy yellow solution is allowed to cool to rt and diethyl carbonate (2 mL, excess) is added and stirring continued for one hour, when ammonium chloride (10% aq) is added. The resulting mixture is partitioned between DCM and water and the aqueous layer is extracted with DCM. The organic fractions are combined, washed with brine, dried over Na2SO4 and adsorbed onto silica. Purification by LC using 8/2 cyclohexane/dichloromethane as the eluent afforded the title compound as a pale orange oil (346.2 mg, 71%).

reactant | 7-bromobenzo[b]thiophene | 2.36 mmol, 500 mg | BrC1=CC=CC2=C1SC=C2 | C8H5BrS
reactant | Magnesium | 2.83 mmol, 530 mg, 1.20 equiv. | [Mg] | Mg
reactant | diethyl carbonate | 2 mL | C(OCC)(OCC)=O | C5H10O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | Benzo[b]thiophene-7-carboxylic acid ethyl ester | 346.2 mg, 71% | C(C)OC(=O)C1=CC=CC2=C1SC=C2 | C11H10O2S
